Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Scopolamine
 
Attending: ___.
 
Chief Complaint:
right arm pain
 
Major Surgical or Invasive Procedure:
open reduction and internal fixation of right distal humerus 
fracture

 
History of Present Illness:
This is a ___ year-old woman who was in her USOH until sustaining 
a mechanical fall on ___ onto her right side. She presented 
to the ___ and the orthopaedic service was consulted for right 
distal humerus fracture, with recommendations for initial 
nonoperative management. The patient followed-up in orthopaedic 
trauma clinic, and was noted on x-rays to have fracture 
displacement. She therefore elected to undergo open reduction 
and internal fixation of right distal humerus fracture.
 
Past Medical History:
-history of traumatic subarachnoid hemorrhage
-Bipolar disorder
-Hypothyroidism
-Migraines
-Osteoporosis
-HTN
-High cholesterol
-Sleep apnea
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION UPON DISCHARGE:
AFVSS
Well-appearing, alert and conversant
Respirations non-labored
Right upper extremity: incision open to air, no drainage, no 
ertythema, healing well with staples in place. Able to flex / 
extend / abduct fingers, though relative weakness with abduction 
___ strength). Sensation intact to light touch over median / 
ulnar / radial distributions of hand. Fingers warm and well 
perfused, strong and palpable radial pulse. 
 
Pertinent Results:
___ 06:00AM BLOOD WBC-8.2 RBC-2.90* Hgb-8.0* Hct-25.4* 
MCV-88 MCH-27.5# MCHC-31.3# RDW-13.8 Plt ___
___ 05:44AM BLOOD WBC-9.5 RBC-3.98* Hgb-11.2* Hct-34.5* 
MCV-87 MCH-28.1 MCHC-32.3 RDW-14.7 Plt ___
___ 07:05AM BLOOD Glucose-87 UreaN-13 Creat-0.7 Na-137 
K-3.7 Cl-104 HCO___ AnGap-___
 
Brief Hospital Course:
The patient underwent open reduction and internal fixation of 
right humeral shaft fracture on ___, performed by Dr. ___ 
___ tolerated well. She was subsequently admitted to the 
orthopaedic trauma service.

Postoperatively, pain was initially controlled with dilaudid 
PCA, transitioned to PO dilaudid with good effect. The patient's 
home at___ dosage was continued. On the night of POD2, the 
patient became confused and agitated; restraints were placed 
briefly for protection of nursing staff. Agitation improved with 
lorazepam, haldol, and seroquel as needed by mouth. By day of 
discharge, mental status had cleared and patient had returned to 
baseline.

CV: Vital signs routinely monitored; remained hemodynamically 
stable. On POD2, the patent received 2units of PRBC for a 
hematocrit of 23.8, with subsequent appropriate response in 
hematocrit.

Pulm: No respiratory issues.

GI: Tolerated a regular diet postoperatively.

ID: Received perioperative vancomycin and remained afebrile 
throughout her stay.

Heme: Received subq lovenox postoperatively; will not need 
anti-coagulation as an out-patient.

Activity: The patient worked with ___ and was deemed ready for 
discharge to rehab. 

Due to placement issues, the patient's discharge was delayed 
until POD6. At that time, she was afebrile with good pain 
control. She will be discharged to rehab, given her pre-existing 
neurologic issues. She will follow-up with ortho trauma clinic 
in ___ days. She will not require anti-coagulation after 
discharge. She will be non-weight-bearing right upper extremity, 
with passive ROM but no active ROM.
 
Medications on Admission:
divalproex ___ QD, famotidine 20BID prn, guanfacine 1mg QHS, 
levothyroxine 75mcg QD,lisinopril 5mg QD, lorazepam 0.5 mg up to 
five QDprn, oxybutynin 3.9 mg/24 hour Patch Semiweekly apply 
patch twice a week, prazosin 1 mg qhs, propranolol 5 mg QD, 
tramadol 50mg q4 prn, venlafaxine 37.5 mg capsule,extended 
release BID, aspirin 81 mg QD
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Venlafaxine XR 37.5 mg PO BID 
3. Propranolol 5 mg PO DAILY 
4. Prazosin 1 mg PO HS 
5. oxybutynin 1 PTCH TP 2X/WEEK (MO,TH,FR) 
6. Multivitamins 1 CAP PO DAILY 
7. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
8. Milk of Magnesia 30 ml PO BID:PRN Constipation 
9. Lisinopril 5 mg PO DAILY 
10. Levothyroxine Sodium 75 mcg PO DAILY 
11. Famotidine 20 mg PO BID 
12. Docusate Sodium 100 mg PO BID:PRN constipation 
13. Aspirin 81 mg PO DAILY 
14. Divalproex (DELayed Release) 125 mg PO DAILY 
15. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
16. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right distal humerus fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
 
ANTICOAGULATION:
- No anticoagulation is needed after discharge
 
WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Change dressing as needed for saturation; use dry, sterile 
gauze and paper tape. If wound remains dry, may leave it open to 
air. 
 
ACTIVITY AND WEIGHT BEARING:
- non-weight bearing with right upper extremity; passive range 
of motion is OK; no active range of motion; OK to weight bear as 
tolerated in other extremities
Physical Therapy:
right upper extremity: non-weight-bearing, passive range of 
motion is OK but no active range of motion at elbow
Treatments Frequency:
-Change dressing as needed for saturation; use dry, sterile 
gauze and paper taper. If the wound remains dry, may leave it 
open to air.
 
Followup Instructions:
___